US07544697B2
The method described in Part F of Example 46 was used to couple 4-bromo-5-(4-chlorobutyl)-1-methyl-1H-pyrazole-3-carbonitrile (16.0 g, 60.0 mmol) and 2-aminophenylboronic acid hydrochloride (20.8 g, 0.120 mol). After the mixture was heated at 115° C. for 24 hours, it was cooled to ambient temperature and filtered through a plug of silica gel (eluting with 3:2 chloroform/methanol). The filtrate was concentrated under reduced pressure and dissolved in ethanol (300 mL). Hydrogen chloride (45 mL of a 4 M solution in ethanol) was added to the solution, and the reaction was heated at reflux for two hours and then cooled to ambient temperature. A precipitate formed and was isolated by filtration and washed with ethanol to provide 1-(4-chlorobutyl)-2-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine hydrochloride. The filtrate was concentrated under reduced pressure and the resulting solid was dissolved in dichloromethane and water. The pH of the solution was raised to 14 using 50% aqueous NaOH while keeping the temperature at 0° C. by adding ice. The layers were separated, the aqueous layer was extracted with additional dichloromethane, the organic layers were combined, dried over Na2SO4, filtered and concentrated to a dark yellow oily solid. The residue was purified by chromatography using a HORIZON HPFC system (40+M cartridge, eluting with 0-30% CMA in chloroform) followed by recrystallization from acetonitrile to provide 1-(4-chlorobutyl)-2-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine. This solid was purified as light tan crystals, mp 188-189° C.

reactant | 4-bromo-5-(4-chlorobutyl)-1-methyl-1H-pyrazole-3-carbonitrile | 60.0 mmol, 16.0 g | BrC=1C(=NN(C1CCCCCl)C)C#N | C9H11BrClN3
reactant | 2-aminophenylboronic acid hydrochloride | 0.120 mol, 20.8 g | Cl.NC1=C(C=CC=C1)B(O)O
product | 1-(4-chlorobutyl)-2-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine hydrochloride | Cl.ClCCCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)C | InChI=1S/C15H17ClN4.ClH/c1-20-12(8-4-5-9-16)13-10-6-2-3-7-11(10)18-15(17)14(13)19-20;/h2-3,6-7H,4-5,8-9H2,1H3,(H2,17,18);1H
